US08623907B2
To a solution of 4-(2′,4′-dichloro-4-ethylbiphenyl-3-yl)-2,2,6,6-tetramethylpyran-3,5-dione (0.220 g, 0.525 mmol) in dry chloroform (4 ml) is added sulfuryl chloride (0.085 ml, 1.05 mmol), followed by stirring at room temperature for 4 hours. After dilution with diethyl ether (150 ml) the organic phase is washed with saturated sodium carbonate (150 ml) then dried over magnesium sulphate and the filtrate concentrated in vacuo to afford 4-chloro-4-(2′,4′-dichloro-4-ethylbiphen-3-yl)-2,2,6,6-tetramethylpyran-3,5-dione (0.229 g, 96%) as a white solid.

reactant | 4-(2′,4′-dichloro-4-ethylbiphenyl-3-yl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.525 mmol, 0.220 g | ClC1=C(C=CC(=C1)Cl)C1=CC(=C(C=C1)CC)C1C(C(OC(C1=O)(C)C)(C)C)=O | C23H24Cl2O3
reactant | sulfuryl chloride | 1.05 mmol, 0.085 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-4-(2′,4′-dichloro-4-ethylbiphen-3-yl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.229 g, 96% | ClC1(C(C(OC(C1=O)(C)C)(C)C)=O)C1=C(C=CC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC | C23H23Cl3O3
